US04837333
A solution of 6,6-dimethyl-1-heptene (5.33 g, 0.0423 mol) and m-chloroperoxybenzoic acid (9.5 g of 85%, 0.048 mol) in dichloromethane (100 ml) was stirred at room temperature for 16 hours. The resulting solution was washed and aqueous sodium hydroxide (3×50 ml of 2M) and dried over sodium sulfate. The solvent was distilled off at atmospheric pressure to yield (4,4-dimethylpentyl)oxirane as a residue, having the following structural characteristics:

reactant | 6,6-dimethyl-1-heptene | 0.0423 mol, 5.33 g | CC(CCCC=C)(C)C | C9H18
reactant | m-chloroperoxybenzoic acid | 0.048 mol, 9.5 g | ClC=1C=C(C(=O)OO)C=CC1 | C7H5ClO3
solvent | dichloromethane | 100 ml | ClCCl | CH2Cl2
product | (4,4-dimethylpentyl)oxirane | CC(CCCC1OC1)(C)C | C9H18O
